US07115645B2
c) 4-Bromo-6-hydroxy-1-(4-methylphenyl)-2-phenyl-1H-benzimidazole
1.2 g of 4-bromo-6-methoxy-1-(4-methylphenyl)-2-phenyl-1H-benzimidazole, 6 ml of acetic acid and 6 ml of aqueous hydrobromic acid (62%) are boiled for 5.5 hours. Then, it is precipitated with waters and the precipitate is suctioned off. The latter was then dispersed between ethyl acetate and 2N sodium hydroxide solution. After the organic phase was washed with water, it was concentrated by evaporation.

reactant | 4-bromo-6-methoxy-1-(4-methylphenyl)-2-phenyl-1H-benzimidazole | 1.2 g | BrC1=CC(=CC=2N(C(=NC21)C2=CC=CC=C2)C2=CC=C(C=C2)C)OC | C21H17BrN2O
reactant | hydrobromic acid | 6 ml | Br | BrH
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 4-Bromo-6-hydroxy-1-(4-methylphenyl)-2-phenyl-1H-benzimidazole | BrC1=CC(=CC=2N(C(=NC21)C2=CC=CC=C2)C2=CC=C(C=C2)C)O | C20H15BrN2O
